resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.005923
R2 0 n2 1.009833
R3 0 n4 1.009345
R4 n1 n3 1.000551
R5 n1 n5 1.006701
R6 n2 n3 1.01147
R7 n2 n6 1.008089
R8 n3 n7 0.98496
R9 n4 n5 1.019776
R10 n4 n6 1.014733
R11 n5 n7 1.002442
C12 n6 n7 5.57e-06
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i]
.endc
.end
